US08138194B2
To a solution of N-(4-aminophenethyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine (0.195 g) in acetonitrile (10 mL) was added phenyl isocyanate (0.063 g). After stirring at room temperature for 16 h, the reaction mixture was concentrated and the residue was partitioned between water and ethyl acetate. The organic layer was concentrated and the crude compound was purified by silica gel column chromatography using a mixture of hexanes:ethyl acetate (1:1), to give 1-(4-(2-(5,6-diphenylfuro[2,3-d]pyrimidin-4-ylamino)ethyl)phenyl)-3-phenylurea (0.240 g, 95%). 1H-NMR (CDCl3, 300 MHz): δ 8.42 (s, 1 H), 7.58 (brs, 1 H), 7.43-7.39 (m, 5 H), 7.33-7.18 (m, 11 H), 7.03-6.98 (m, 1 H), 6.86-6.83 (m, 2 H), 4.67 (t, 1 H), 3.63 (q, 2 H), 2.66 (t, 2 H). LC-MS (ESI) m/z 526.2 (M+H).

reactant | N-(4-aminophenethyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine | 0.195 g | NC1=CC=C(CCNC=2C3=C(N=CN2)OC(=C3C3=CC=CC=C3)C3=CC=CC=C3)C=C1 | C26H22N4O
reactant | phenyl isocyanate | 0.063 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(4-(2-(5,6-diphenylfuro[2,3-d]pyrimidin-4-ylamino)ethyl)phenyl)-3-phenylurea | 0.240 g, 95% | C1(=CC=CC=C1)C1=C(OC=2N=CN=C(C21)NCCC2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)C2=CC=CC=C2 | C33H27N5O2
